US04272532
N-Methyl-5-phenyl-6H-1,3,4-thiadiazin-2-amine hydrochloride
5.25 g (0.05 mole) of 4-methyl-thiosemicarbazide and 7.73 g (0.05 mole) of phenacyl chloride are heated and stirred at reflux (65° C.) in 200 ml of methanol for 30 minutes. At this time, the solvent is removed in vacuo. The residue is dissolved in methanol, warmed and then diluted with acetone. Subsequently, it is concentrated to a volume of approximately 200 ml. After standing for about 2 days, 8.33 g of N-methyl-5-phenyl-6H-1,3,4-thiadiazin-2-amine hydrochloride are deposited. m.p. 176°-178° C.

reactant | 4-methyl-thiosemicarbazide | 0.05 mole, 5.25 g | CNC(NN)=S | C2H7N3S
reactant | phenacyl chloride | 0.05 mole, 7.73 g | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
solvent | methanol | 200 ml | CO | CH4O
product | N-Methyl-5-phenyl-6H-1,3,4-thiadiazin-2-amine hydrochloride | Cl.CNC=1SCC(=NN1)C1=CC=CC=C1 | InChI=1S/C10H11N3S.ClH/c1-11-10-13-12-9(7-14-10)8-5-3-2-4-6-8;/h2-6H,7H2,1H3,(H,11,13);1H
